US07691869B2
To a solution of the title D compound of Example 1, 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate (0.06 g, 0.165 mmol) in dry DMF (5 mL), the title B compound, 4-(2,4-difluorobenzyl)piperazine dihydrochloride (0.33 mmol) and 0.06 mL of DIEA are added and the solution is stirred at 100° C. for 5 h. The reaction mixture is cooled to RT, and the solvent is removed under reduced pressure. To the residue, acetonitrile is added and the solution is stirred at 60° C. for 0.5 h. The solution is then cooled to RT, and the resulting solids are collected by filtration to give 7-(2-(4-(2,4-difluorobenzyl)piperazin-1-yl)ethyl)-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine: LC/MS (M+1=478.2). 1H NMR (DMSO-d6, 400 MHz) δ 2.30 (m, 4H), 2.36 (m, 4H), 2.67 (t, 2H, J=6.8 Hz), 3.47 (s, 2H), 4.22 (t, 2H, J=6.8 Hz), 6.58 (d, 1H, J=3.6 Hz), 6.72 (m, 1H), 7.06 (dt, 1H, J=8.4 Hz and 2.0 Hz), 7.14 (d, 1H, J=3.2 Hz), 7.20 (m, 2H), 7.42 (dd, 1H, J=15.2 Hz and 8.0 Hz), 7.54 (br s, NH2), 7.93 (s, 1H). Anal. calculated for (C24H24F2N8O+0.5H2O): C, 59.13; H, 5.17; F, 7.79; N, 22.98; 0, 4.92. Found C, 58.84; H, 4.97; N, 22.63.

reactant | 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate | 0.165 mmol, 0.06 g | CS(=O)(=O)OCCN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3 | C14H14N6O4S
reactant | 4-(2,4-difluorobenzyl)piperazine dihydrochloride | 0.33 mmol | Cl.Cl.FC1=C(CN2CCNCC2)C=CC(=C1)F
reactant | DIEA | 0.06 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-(2-(4-(2,4-difluorobenzyl)piperazin-1-yl)ethyl)-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine | FC1=C(CN2CCN(CC2)CCN2C=CC=3C=4N(C(=NC32)N)N=C(N4)C=4OC=CC4)C=CC(=C1)F | C24H24F2N8O
